US04419435
8-Acetamido-5-(m-acetoxybenzylsulfonyl)quinoline
8-Acetamido-5-quinolinesulfinic acid (10 g, 40 mmole), m-(bromomethyl)phenyl acetate (11 g, 44 mmole), excess sodium bicarbonate (5 g) and dry dimethylformamide (50 ml) were mixed and heated on the steam bath for 11/2 hours. The mixture was slowly poured into 800 ml stirred water and the mixture stirred another 30 min. The solid was filtered off, washed with water, and air-dried overnight. Yield 15.8 g (99 percent) of crude but relatively pure product, m.p. 179°-182° C. A sample recrystallized from toluene, melted 180°-182° C.

reactant | 8-Acetamido-5-quinolinesulfinic acid | 40 mmole, 10 g | C(C)(=O)NC1=CC=C(C=2C=CC=NC12)S(=O)O | C11H10N2O3S
reactant | m-(bromomethyl)phenyl acetate | 44 mmole, 11 g | C(C)(=O)OC1=CC(=CC=C1)CBr | C9H9BrO2
reactant | sodium bicarbonate | 5 g | C([O-])(O)=O.[Na+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-Acetamido-5-(m-acetoxybenzylsulfonyl)quinoline | C(C)(=O)NC=1C=CC(=C2C=CC=NC12)S(=O)(=O)CC1=CC(=CC=C1)OC(C)=O | C20H18N2O5S
